US08183275B2
4,4-Dimethyl-1-hydroxypentan-2-one
To a mixture of 4,4-dimethyl-1-pentene (10 g), acetone (600 mL), water (140 mL) and acetic acid (13.5 mL) at rt was added a solution of potassium permanganate (22.3 g) in water (85 mL), followed by additional acetone (270 mL). After stirring for 40 min, sodium nitrite (11.7 g) was added, followed by dilute sulfuric acid (12%, 221 mL). The product was extracted with ether:hexanes (1:1), and the extracts were washed with saturated sodium bicarbonate and brine, dried (sodium sulfate) and concentrated. The resulting residue was purified on silica gel column (5-100% ether in hexanes) to give the title compound.

reactant | 4,4-dimethyl-1-pentene | 10 g | CC(CC=C)(C)C | C7H14
reactant | potassium permanganate | 22.3 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium nitrite | 11.7 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 221 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 85 mL | O | H2O
reactant | water | 140 mL | O | H2O
solvent | acetone | 270 mL | CC(=O)C | C3H6O
solvent | acetic acid | 13.5 mL | C(C)(=O)O | C2H4O2
solvent | acetone | 600 mL | CC(=O)C | C3H6O
product | 4,4-Dimethyl-1-hydroxypentan-2-one | CC(CC(CO)=O)(C)C | C7H14O2
